US05387710
A solution of N-benzyl-6,7-dihydro-2-nitro-5H-benzocyclohepten-7-amine (3.03 g) in ethanol (19 ml) and dioxane (19 ml) was added dropwise to a stirred mixture of iron powder (3.03 g) and ammonium chloride (0.36 g), in ethanol (15 ml), dioxane (15 ml), and water (15 ml) under reflux over 20 minutes. The resulting mixture was stirred under reflux for 20 minutes and the hot reaction mixture was filtered. The filtrate was evaporated in vacuo and the residue was partitioned between ethyl acetate and sodium bicarbonate aqueous solution. The organic layer was washed with brine, dried over magnesium sulfate, evaporated in vacuo, and chromatographed over silica gel using dichloromethane and methanol to afford N7 -benzyl-6,7-dihydro-5H-benzocyclohepten-2,7-diamine (2.52 g) as a brown oil.

reactant | N-benzyl-6,7-dihydro-2-nitro-5H-benzocyclohepten-7-amine | 3.03 g | C(C1=CC=CC=C1)NC1CCC2=C(C=C1)C=C(C=C2)[N+](=O)[O-] | C18H18N2O2
reactant | ammonium chloride | 0.36 g | [Cl-].[NH4+]
reactant | water | 15 ml | O | H2O
solvent | ethanol | 19 ml | C(C)O | C2H6O
solvent | dioxane | 19 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | iron | 3.03 g | [Fe] | Fe
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N7 -benzyl-6,7-dihydro-5H-benzocyclohepten-2,7-diamine | 2.52 g | C(C1=CC=CC=C1)NC1CCC2=C(C=C1)C=C(C=C2)N | C18H20N2
